US09023846B2
A solution of 3-tert-butyl-isoxazole-5-carboxylic acid [3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-2-yl]-amide (78.0 mg, 0.180 mmol, prepared as described in the previous step) in acetic acid (5 mL) was treated with iron powder (50.1 mg, 0.898 mmol) and heated to 100° C. for 2 h. The volume of acetic acid was reduced to 2 mL by concentrating in vacuo, and saturated aqueous NaHCO3 (50 mL) was added. The resulting mixture was extracted twice with EtOAc (60 mL). The combined extracts were dried over MgSO4 and concentrated in vacuo. The residue was purified on a 4-g SEPRA Si 50 SPE column (Isco system: Flow rate=10 mL/min; Eluent=EtOAc/hexanes, 1:99 v/v for 5 min, then 1:99 to 1:9 v/v over 40 min) to yield 2-(3-tert-butyl-isoxazol-5-yl)-5-(2-trifluoromethyl-phenyl)-1H-imidazo[4,5-b]pyridine as a white solid. 1H-NMR (400 MHz, CDCl3) δ: 10.06 (br. s., 1H), 8.16 (d, J=8.3 Hz, 1H), 7.81 (d, J=8.1 Hz, 1H), 7.64 (d, J=7.6 Hz, 1H), 7.52-7.60 (m, 2H), 7.46 (d, J=8.3 Hz, 1H), 7.07 (s, 1H), 1.42 (s, 9H). Mass Spectrum (LCMS, APCI pos.): Calculated for C20H17F3N4O: 387.1 (M+H); Measured: 387.1.

reactant | 3-tert-butyl-isoxazole-5-carboxylic acid [3-nitro-6-(2-trifluoromethyl-phenyl)-pyridin-2-yl]-amide | [N+](=O)([O-])C=1C(=NC(=CC1)C1=C(C=CC=C1)C(F)(F)F)NC(=O)C1=CC(=NO1)C(C)(C)C | C20H17F3N4O4
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.898 mmol, 50.1 mg | [Fe] | Fe
product | 2-(3-tert-butyl-isoxazol-5-yl)-5-(2-trifluoromethyl-phenyl)-1H-imidazo[4,5-b]pyridine | C(C)(C)(C)C1=NOC(=C1)C=1NC=2C(=NC(=CC2)C2=C(C=CC=C2)C(F)(F)F)N1 | C20H17F3N4O
